US06323235B1
3-(2-(3-phenylpropyloxy)ethyl)-7-hydroxybenzofuran
Sodium hydride (60%, 27 mg) was suspended in DMF (1 ml) and the obtained suspension was cooled to 0° C. To this solution, a solution of 3-(2-hydroxyethyl)-7-tetrahydropyranyloxybenzofuran (118 mg) in DMF (0.5 ml) was added dropwise and the obtained mixture was stirred at 0° C. for 10 minutes. To this solution, 1-bromo-3-phenyl-propane (0.27 ml) was added and the solution was stirred at 0° C. for 1 hour and then at room temperature for 45 hours. A catalytic amount of concentrated hydrochloric acid was added to the reaction solution and the solution was stirred for 2 hours. The reaction solution was poured into water layer (30 ml) and the resultant was extracted twice with ethyl acetate (15 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=3/1) using silica gel to obtain the desired compound (106 mg, yield: 80%).

reactant | Sodium hydride | 27 mg | [H-].[Na+]
reactant | 3-(2-hydroxyethyl)-7-tetrahydropyranyloxybenzofuran | 118 mg | OCCC1=COC2=C1C=CC=C2OC2OCCCC2 | C15H18O4
reactant | 1-bromo-3-phenyl-propane | 0.27 ml | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | 3-(2-(3-phenylpropyloxy)ethyl)-7-hydroxybenzofuran | 106 mg, yield: 80% | C1(=CC=CC=C1)CCCOCCC1=COC2=C1C=CC=C2O | C19H20O3
